US09403805B2
(2S,4S)-1-Cyclohexanecarbonyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]pyrrolidine-2-carboxylic acid ethyl ester was prepared (2S,4S)-4-amino-1-cyclohexanecarbonyl-pyrrolidine-2-carboxylic acid ethyl ester and 1-hydroxy-naphthalene-2-carboxylic acid in an analogous manner to example 1. MS calcd. for C25H31N2O5 [(M+H)+] 439.0, obsd. 439.4.

reactant | (2S,4S)-4-amino-1-cyclohexanecarbonyl-pyrrolidine-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@H]1N(C[C@H](C1)N)C(=O)C1CCCCC1 | C14H24N2O3
reactant | 1-hydroxy-naphthalene-2-carboxylic acid | OC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O3
product | (2S,4S)-1-Cyclohexanecarbonyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]pyrrolidine-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@H]1N(C[C@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)C(=O)C1CCCCC1 | C25H30N2O5
